US05665754
To a solution of trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-(methoxycarbonyl)pyrrolidine (500 mg, 1.57 mmol) in 4 mL of CH2Cl2 was added at 0° C. 4-dimethylaminopyridine (250 mg, 2.04 mmol), followed by isopropyl chloroformate (1.7 mL of a 1M toluene solution). After 16 hr the reaction was diluted with CH2Cl2 and washed with 1M H3PO4. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. Silica gel chromatography (2:1, hexanes:ethyl acetate) provided trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-methoxycarbonyl-1-(methylethoxycarbonyl)pyrrolidine as a white solid (280 mg, 44%). Anal. Calcd for C22H29NO6 : C, 65.17; H, 7.71; N, 3.45. Found: C, 65.16; H, 7.69; N, 3.43.

reactant | trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-(methoxycarbonyl)pyrrolidine | 1.57 mmol, 500 mg | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CNC[C@H]1C(=O)OC | C18H25NO4
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
reactant | toluene | 1M | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.04 mmol, 250 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-methoxycarbonyl-1-(methylethoxycarbonyl)pyrrolidine | 280 mg, 44% | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CN(C[C@H]1C(=O)OC)C(=O)OC(C)C | C22H31NO6
